US07737166B2
7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-2-(2-hydroxyphenyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (#110)
(3S)-3-(Dimethylamino)pyrrolidine (100 μl, 0.79 mmol) and triethylamine (220 μl) were added to a dimethyl sulfoxide (5 ml) solution of 7-fluoro-2-(2-hydroxyphenyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-212) (204 mg, 0.59 mmol). The system was purged with nitrogen, then sealed up, and heated at 120° C. for 30 minutes. After cooling, the solvent was evaporated away under reduced pressure, then the resulting residue was dissolved in chloroform, and washed with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate, then the solvent was evaporated away under reduced pressure, and the resulting residue was subjected to silica gel column chromatography. Elution with a mixed solvent of chloroform/methanol (97:3, v/v) gave a main product. This was washed with a mixed solvent of isopropyl ether and ethanol, and the solid was collected by filtration to obtain the entitled compound (64 mg, 24%) as a pale yellow solid.

reactant | (3S)-3-(Dimethylamino)pyrrolidine | 0.79 mmol, 100 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | triethylamine | 220 μl | C(C)N(CC)CC | C6H15N
reactant | 7-fluoro-2-(2-hydroxyphenyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.59 mmol, 204 mg | FC=1C(=C(C(=C2N=C(OC21)C2=C(C=CC=C2)O)C#N)C)C2=CC=CC=C2 | C21H13FN2O2
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-2-(2-hydroxyphenyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 64 mg, 24% | CN([C@@H]1CN(CC1)C=1C(=C(C(=C2N=C(OC21)C2=C(C=CC=C2)O)C#N)C)C2=CC=CC=C2)C | C27H26N4O2
